US05268386
5,7-Dihydroxyspiro[2H-1-benzothiin-2,1'-cyclohexan]-4(3H)-one
A mixture of 5,7-Dimethoxyspiro[2H-1-benzothiin -2,1'-cyclohexan]-4(3H)-one (prepared in Preparation 78) (0.526 g, 1.80 mmol) and pyridine hydrochloride (4 g, 34.6 mmol) is heated at 205°-210° C. for 50 minutes with stirring under nitrogen gas. After cooling, dilute HCl is added to the mixture. The mixture is extracted with diethyl ether. The extract is washed with saturated brine, dried, and the solvent is removed. The residue is placed on a silica gel column and eluted with a mixture of ethyl acetate and dichloromethane (1:9) to obtain the title compound as a crystalline solid (0.459 g, 96%). Recrystallization from diethyl ether gives a product having a melting point of 160°-162° C.

reactant | 5,7-Dimethoxyspiro[2H-1-benzothiin -2,1'-cyclohexan]-4(3H)-one | 1.80 mmol, 0.526 g | COC1=CC(=CC2=C1C(CC1(CCCCC1)S2)=O)OC | C16H20O3S
reactant | pyridine hydrochloride | 34.6 mmol, 4 g | Cl.N1=CC=CC=C1
reactant | HCl | Cl | ClH
product | 5,7-Dihydroxyspiro[2H-1-benzothiin-2,1'-cyclohexan]-4(3H)-one | 0.459 g, 96% | OC1=CC(=CC2=C1C(CC1(CCCCC1)S2)=O)O | C14H16O3S
